US06080870
Step C: 5-(4-Bromophenyloxy)-1-(4-cyanobenzyl)-imidazole
The title compound was prepared as a white solid using the protocol described in example 5, step C using, 4-cyanobenzyl alcohol and 4-(4-bromophenyloxy)-1-trityl-imidazole. The title compound was purified by chromatography (Silica gel 3:7 acetone in CHCl3).

reactant | 4-cyanobenzyl alcohol | C(#N)C1=CC=C(CO)C=C1 | C8H7NO
reactant | 4-(4-bromophenyloxy)-1-trityl-imidazole | BrC1=CC=C(C=C1)OC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H21BrN2O
product | 5-(4-Bromophenyloxy)-1-(4-cyanobenzyl)-imidazole | BrC1=CC=C(C=C1)OC1=CN=CN1CC1=CC=C(C=C1)C#N | C17H12BrN3O
